US05470859
(±) 1-Benzyl-3-methoxycarbonylpyrrolidine (D4)
Ethyl acrylate (86 g, 1.0 mole) in dichloromethane (2 L) was cooled to 0° C. and treated with N-benzyl-N-(methoxymethyl)-N-[(trimethylsilyl)methyl]amine (compound D17 of EP 0363085) (300 g, 80% pure by 1H NMR, 1 mole) with stirring over a period of 10 min whilst maintaining the temperature between -5° C. and 0° C. A solution of trifluoroacetic acid in dichloromethane (100 ml, 1 molar) was added at such a rate that the temperature did not rise above 5° C. and the reaction allowed to warm to room temperature overnight. The solution was then washed with saturated aqueous potassium carbonate solution, dried over sodium sulphate and concentrated in vacuo to a gum. The glum was distilled in vacuo to afford the title compound. (D4) as a single main fraction. Bpt 150°-160° at 8 mm (232 g, 100%).

reactant | Ethyl acrylate | 1.0 mole, 86 g | C(C=C)(=O)OCC | C5H8O2
reactant | N-benzyl-N-(methoxymethyl)-N-[(trimethylsilyl)methyl]amine | 300 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
solvent | dichloromethane | 1 molar, 100 ml | ClCCl | CH2Cl2
product | (±) 1-Benzyl-3-methoxycarbonylpyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)C(=O)OC | C13H17NO2
